US07700243B2
Preparation of N-ethyl-N-methoxymethyl-N,N-dimethylammonium chloride (EMOMDMCl)
A 47.50 g quantity of ethyldimethylamine (reagent, product of Tokyo Kasei Co., Ltd.) was dissolved in 300 g of dehydrated acetone(reagent, Wako Pure Chemical Ind. Ltd.), followed by nitrogen replacement. Over a period of 1 hour, 52.30 g of chloromethyl methyl ether (reagent, product of Tokyo Kasei Co., Ltd., distilled one) was added dropwise to the solution at 5° C. The mixture was stirred at lower than 15° C. for 5 hour to complete the reaction. The reaction mixture was cooled to 5° C. and was filtered under nitrogen atmosphere. The solids obtained were washed with 150 g of acetone and then dried in a vacuum, giving 85.90 g of the desired product (white solid).

reactant | ethyldimethylamine | C(C)N(C)C | C4H11N
reactant | chloromethyl methyl ether | 52.30 g | COCCl | C2H5ClO
solvent | acetone | 300 g | CC(=O)C | C3H6O
product | N-ethyl-N-methoxymethyl-N,N-dimethylammonium chloride | 85.90 g | [Cl-].C(C)[N+](C)(C)COC | InChI=1S/C6H16NO.ClH/c1-5-7(2,3)6-8-4;/h5-6H2,1-4H3;1H/q+1;/p-1
